US06048852
b) Methyl 2-oxo-2-(4-isopropylphenyl)acetate
Prepared from methyl 4-isopropylphenylacetate by the method described in Example 33a), except that the eluent used was 4:1 hexane:ethyl acetate and the product contained starting material. δH (250 MHz, CDCl3), 1.28 (6H, d, J 6.87), 2.99 (1H, heptet), 3.98 (3H, s), 7.37 (2H, d, J 8.25), 7.95 (2H, d, J 8.33).

reactant | methyl 4-isopropylphenylacetate | C(C)(C)C1=CC=C(C=C1)CC(=O)OC | C12H16O2
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-oxo-2-(4-isopropylphenyl)acetate | O=C(C(=O)OC)C1=CC=C(C=C1)C(C)C | C12H14O3
